US07183260B2
Part C: Methyl(2S)-2({N-[2-(tert-butyl)phenyl]carbamoyl}carbonylamino)propanoate
A 3-L, 3-necked round-bottomed flask, equipped with a mechanic stirrer and a thermal probe (under nitrogen) was charged with the following solids: 2-(2-tert-Butylphenylamino)-2-oxoacetate (70.008 g, 316.402 mmol), alanine methyl ester hydrochloride (44.368 g, 317.862 mmol), hydroxybenzotriazole hydrate (HOBT) (47.324 g, 350.210 mmol), and 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDAC.HCl) (121.668 g, 635.4 mmol). N,N′-dimethylformamide (DMF) (1250 mL) was added via graduated cylinder, and the reaction mixture stirred to partially dissolve and suspend the solid reagents. N-methylmorpholine (108 mL, 99.36 g, 982 mmol) was then added in one portion via graduated cylinder. After stirring at room temperature for 18 hours, the reaction mixture was partitioned between EtOAc (ca. 600 mL) and 1N HCl (ca. 500 mL). The aqueous phase was washed two times with EtOAc (ca. 300 mL), and the combined organic layers were washed successively with 1N HCl (ca. 300 mL), H2O (ca 300 mL), saturated NaHCO3 (ca. 300 mL), and brine (ca. 300 mL). The resulting pale yellow organic solution was dried over MgSO4, then concentrated to yield a pale yellow crystalline mass (95 g, 97%). TLC: (silica, 1:1 hexanes/EtOAc) Rf: 0.54. MP: 60.1–62.1° C.; IR (KBr) 3284, 1747, 1662, 1503, 1216, 755 cm−1; 1H NMR: (CDCl3, TMS) δ 9.55 (br, 1H), 8.01 (dd, J=7.8 Hz, J′=1.8 Hz, 1H), 7.42 (dd, J=7.8 Hz, J′=2.6 Hz, 1H), 7.15–7.31 (m, 2H), 4.64 (p, J=7.5 Hz, 1H), 3.80 (s, 3H), 1.54 (d, J=7.5 Hz, 3H), 1.46 (s, 9H) ppm.

reactant | 2-(2-tert-Butylphenylamino)-2-oxoacetate | 316.402 mmol, 70.008 g | C(C)(C)(C)C1=C(C=CC=C1)NC(C(=O)[O-])=O
reactant | alanine methyl ester hydrochloride | 317.862 mmol, 44.368 g | Cl.COC([C@@H](N)C)=O
reactant | hydroxybenzotriazole hydrate | 350.210 mmol, 47.324 g | O.OC1=CC=CC=2NN=NC21
reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 635.4 mmol, 121.668 g | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 982 mmol, 108 mL, 99.36 g | CN1CCOCC1 | C5H11NO
reactant | KBr | [K+].[Br-]
solvent | N,N′-dimethylformamide | 1250 mL | CN(C)C=O | C3H7NO
product | Methyl(2S)-2({N-[2-(tert-butyl)phenyl]carbamoyl}carbonylamino)propanoate | C(C)(C)(C)C1=C(C=CC=C1)NC(=O)C(=O)N[C@H](C(=O)OC)C | C16H22N2O4
